US09260408B2
(rac)-N-(1-(5-Bromopyridin-3-yl)ethyl)-N-methylethanesulfonamide
In analogy to the procedure described for the preparation of intermediate A-41, N-(1-(5-bromopyridin-3-yl)ethyl)ethanesulfonamide (intermediate A-37) was reacted with MeI in presence of NaH (60% in mineral oil) to give the title compound as a light yellow solid. MS: 307.1 and 309.2 (M+H+).

reactant | N-(1-(5-bromopyridin-3-yl)ethyl)ethanesulfonamide | BrC=1C=C(C=NC1)C(C)NS(=O)(=O)CC | C9H13BrN2O2S
reactant | MeI | CI | CH3I
reactant | NaH | [H-].[Na+]
product | (rac)-N-(1-(5-Bromopyridin-3-yl)ethyl)-N-methylethanesulfonamide | BrC=1C=C(C=NC1)C(C)N(S(=O)(=O)CC)C | C10H15BrN2O2S
